US06653300B2
To a solution of the above 4-chloro-2-phenoxymethylquinazoline (0.5 g, 1.85 mmol) in THF (30 mL) is added 3-amino-5-cyclopropylpyrazole (0.47 g, 3.69 mmol) and the reaction mixture is heated at 65° C. for 24 hours. Solvent is evaporated and ethanol is added. A white solid forms and is collected by filtration and dried under vacuum to give (5-cyclopropyl-2H-pyrazol-3-yl)-(2-phenoxymethyl-quinazolin-4-yl)-amine.

reactant | 4-chloro-2-phenoxymethylquinazoline | 1.85 mmol, 0.5 g | ClC1=NC(=NC2=CC=CC=C12)COC1=CC=CC=C1 | C15H11ClN2O
reactant | 3-amino-5-cyclopropylpyrazole | 3.69 mmol, 0.47 g | NC1=NNC(=C1)C1CC1 | C6H9N3
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | (5-cyclopropyl-2H-pyrazol-3-yl)-(2-phenoxymethyl-quinazolin-4-yl)-amine | C1(CC1)C=1C=C(NN1)NC1=NC(=NC2=CC=CC=C12)COC1=CC=CC=C1 | C21H19N5O
